US07812045B2
2-(2,4-Difluorophenyl)-1-(5-nitro-2H-indazol-1-yl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol
5-Nitroindazole (3.44 g, 21.08 mmol) was suspended in N,N-dimethylformamide (100 ml) and sodium hydride (0.93 g, 23.19 mmol) was slowly added to the suspension at 0° C., followed by stirring for 30 min and then for an additional 30 min at room temperature. The addition of 1-((2-(2,4-difluorophenyl)oxiran-2-yl)methyl)-1H-1,2,4-triazole (5 g, 21.08 mmol) was performed before stirring at 60° C. for 2 hours. The addition of water (1 ml) at 0° C. led to termination of the reaction. After being diluted with ethyl acetate (200 ml), the reaction mixture was washed with saturated ammonium chloride solution (200 ml) and then with brine (200 ml). The organic layer was dried over anhydrous magnesium sulfate and vacuum evaporated to concentrate it. The product was purified by chromatography on silica gel to give the title compound (Yield 47%). This compound was found to have a melting point from 63 to 64° C.

reactant | 5-Nitroindazole | 21.08 mmol, 3.44 g | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | sodium hydride | 23.19 mmol, 0.93 g | [H-].[Na+]
reactant | 1-((2-(2,4-difluorophenyl)oxiran-2-yl)methyl)-1H-1,2,4-triazole | 21.08 mmol, 5 g | FC1=C(C=CC(=C1)F)C1(OC1)CN1N=CN=C1 | C11H9F2N3O
reactant | water | 1 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-Difluorophenyl)-1-(5-nitro-2H-indazol-1-yl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | Yield 47% | FC1=C(C=CC(=C1)F)C(CN1NCC2=CC(=CC=C12)[N+](=O)[O-])(CN1N=CN=C1)O | C18H16F2N6O3
